US03957761
In the manner given in Example 27, 5chloro-2-[3-[(diethylamino)methyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone is heated in ethanol with hydrazine hydrate to give 8-chloro-1-[(diethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 5chloro-2-[3-[(diethylamino)methyl]-5-(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)CN(CC)CC | C29H26ClN5O3
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-1-[(diethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(CC)CC)C3=CC=CC=C3)C1 | C21H22ClN5
